US05329042
(3aR, 7aS)-1,3,3a,4,7,7a-hexahydroisobenzofuran-1-one
In a stream of nitrogen gas, 20 g of (1R, 2S)-2-methoxycarbonylcyclohex-4-ene-1-carboxylic acid was dissolved in 120 ml of dry tetrahydrofuran, and to the solution, was added 18.2 ml of triethylamine while the solution being cooled by ice. A dry tetrahydrofuran (40 ml) solution of ethyl chloroformate (12.4 ml) was slowly added dropwise to the mixture. While the mixture was being cooled by ice, the mixture was stirred for 2 hours. After filtration of the resulting triethylamine hydrochloride, the filtrate was added dropwise to a H2O (100 ml) solution of NaBH4 (10.3 g) with ice-cooling and the mixture was stirred for 2 hours at room temperature. Then, 2N-HCl was added to the mixture to adjust the pH thereof to 4-5, and THF was distilled off under a reduced pressure. The residue was extracted by ethyl acetate. The ethyl acetate layer was washed with saturated sodium bicarbonate solution and brine, and the organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under a reduced pressure, and the residue was dissolved in 100 ml of toluene. 2.07 g of p-toluenesulfonic acid monohydrate was added to this solution, and the mixture was stirred for 5 hours at room temperature. The reaction mixture was washed with saturated sodium bicarbonate solution and brine. Then, the organic layer was dried over anhydrous magnesium sulfate, and after filtration, the filtrate was concentrated under a reduced pressure. The residue was distilled under a reduced pressure, and thus 9.35 g of the titled compound was obtained.

reactant | (1R, 2S)-2-methoxycarbonylcyclohex-4-ene-1-carboxylic acid | 20 g | COC(=O)[C@@H]1[C@@H](CC=CC1)C(=O)O | C9H12O4
reactant | triethylamine | 18.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 12.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (3aR, 7aS)-1,3,3a,4,7,7a-hexahydroisobenzofuran-1-one | 9.35 g, Yield: 62.1% | C1(OC[C@@H]2CC=CC[C@H]12)=O | C8H10O2
